2159-02-19 18:03:00 Physician Attending Progress Note
Chief Complaint: Patient with history of rapidly evolving lung cancer
   was transferred to medical floor following brief [**Hospital Ward Name 51**] ICU stay where
   she was seen for dyspnea.
   Now, on the floor patient has evolved significant tachycardia with
   rhythm of A-fib with rapid ventricular response.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with history of ASD repair and complication of sternal wound
   infection.  Lung CA diagnosed on evlauation of dyspnea and back pain
   with chest CT scan showing significant hilar lesions and bronchoscopy
   revealing Large Cell Lung CA.
   24 Hour Events:
   1-A-Fib with Rapid Ventricular Response--Patient did have significant
   evolution of A-Fib with tachcardia to 130 bpm.  Rate control was
   achieved with Diltiazem IV
   2-Respiratory Distress--Patient with recent history of left sided
   complete collapse of lung.  In the setting of A-Fib as above patient
   evolved some worsening hypoxemia requiring increased FIO2 to maintain
   saturations.  Oxygen at 5 lpm at time of transfer.
   Given A-Fib with RVR and further compromise of tenuous respiratory
   status patient to ICU for further care
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Other medications:
   Lasix 20mg po BID
   Zosyn
   vanco po/IV
   Spiriva
   Flovent
   Hep sq
   H2-Blocker
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2159-2-19**] 05:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 88 (88 - 147) bpm
   BP: 111/50(66){111/50(66) - 127/72(81)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
             63 mL
   PO:
             TF:
   IVF:
   63 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     70 mL
   Urine:
   70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.52/48/75/38/13
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Right Base, Diminished:
   Left), MId-line scar C/D/I
Patient with absent breath sounds left
   side.  Right side without areas of focal crackles but with diminished
   breath sound at bases.
   Cardiac-Patient with clear heart sounds, no evidence of murmur, no rub
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed-_Responds to voice, appropriate, significant somnolence
   but fully arousable
   Labs / Radiology
   9.7 g/dL
   419 K/uL
   137 mg/dL
   1.1 mg/dL
   38 mEq/L
   3.6 mEq/L
   11 mg/dL
   88 mEq/L
   132 mEq/L
   29.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
   WBC
   8.4
   Hct
   29.2
   Plt
   419
   Cr
   1.1
   TCO2
   41
   Glucose
   137
   Other labs: PT / PTT / INR:14.0/28.9/1.2, CK / CKMB / Troponin-T:138//,
   Lactic Acid:2.0 mmol/L, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR-[**2159-2-19**]
   patient with complete opacification of left chest--present since
   [**2159-2-16**]-she has some suggestion of left chest effusion as there is some
   shift of structures to right side of midline
   Assessment and Plan
   64 yo female with history of ASD s/p repair now found to have
   substantial burden from Lung CA now identified as Large Cell CA.  She
   has had left sided lung collapse likely secondary to proximal
   obstruction which now has evidence of some shift to right side of chest
   consistent with some evolution of co-existing pleural effusion.  In
   addition onset of A-Fib with RVR has complicated respiratory
   instability.
   1)Atrial Fibrillation-Patient with history of A-fib now with evolution
   of RVR and co-existing respiratory compromise.  Incrased PAP
   intermittent hypoxemia may be current stress.  No evidence of
   Hyperthyroidism or evidence of active ischemia-
   -Dilt gtt started and rate stabilized
   -Will move to po Rx and will need to consider Dilt po given significant
   co-existing lung disease and failure of B-blocker in past.
   -Cardioversion only for hemodynamic compromise
   2)Hypoxemia-Patient with left lung collapse, lung cancer, underlying
   COPD which was not limiting prior and suspicion for but absence of
   documentation of post-obstructive pneumonia
   -Supplemental O2 as needed
   -Right side down
   -Vanco/Zosyn for possible post obstructive pneumonia
   -Would need to evaluate sputum culture and consider bronchoscopy for
   acute worsening
   3)Lung Cancer-large cell, bilateral, rapidly evolving
   -Continued XRT and plans for chemotherapy
   -Will need to consider local airway RX given significant collapse
   distally if not amenable to clearance of secretions alone
   4)ASD
Patient without change in exam
   5)COPD-
   -Atrovent/Albuterol alone
   6)Somnolence
Patient with picture consistent with encephalopathy
   -minimze sedating medications
   -follow up exam
   -ABG for acute or persisent worsening
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2159-2-19**] 02:15 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP: N/A
   Comments:
   Communication:  Comments: With Patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2159-02-20 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2159-2-19**] 02:15 PM
   Weaned off of diltiazem gtt, switched to po
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2159-2-20**] 04:58 AM
   Vancomycin - [**2159-2-20**] 04:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-2-19**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-20**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 90 (86 - 147) bpm
   BP: 107/52(64){107/49(64) - 136/73(86)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    894 mL
                                                                    180 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    594 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    940 mL
   Urine:
                                                                    650 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 96%
   ABG: 7.52/48/75/35/13
   Physical Examination
   Awake and oriented.
   Mucous membranes moist
   S1, S2, borderline tachycardic, no murmur
   Sternal wound with brown eschar, mild erythema, no induration or
   fluctuance.
   Lungs with absent breath sounds on left side; diminished on right with
   mid-inspiratory crackles.
   Abd soft, NT, ND.
   Ext without edema.  Pulses +2 b/l.
   Labs / Radiology
   410 K/uL
   9.7 g/dL
   112 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.4 mEq/L
   13 mg/dL
   93 mEq/L
   136 mEq/L
   28.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
   WBC
   8.4
   7.0
   Hct
   29.2
   28.5
   Plt
   419
   410
   Cr
   1.1
   1.1
   TropT
   <0.01
   TCO2
   41
   Glucose
   137
   112
   Other labs: PT / PTT / INR:13.6/27.2/1.2, CK / CKMB /
   Troponin-T:138/2/<0.01, Lactic Acid:2.0 mmol/L, Ca++:10.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Pathology [**2-15**]:
   Immunocytochemical studies (S08-6176, S08-6164) show
   positive staining of some of the tumor cells with
   pan-keratin (AE1-3/Cam 5.2), cytokeratin 7 and synaptophysin
   and negative staining of the tumor cells with TTF-1,
   cytokeratin 20, chromogranin and LCA. These findings
   supports the diagnosis. Based on morphologic features, a
   large cell carcinoma is favored.
   CXR [**2-19**]:
   There continues to be complete opacification of the left hemithorax, [**Doctor Last Name **]
   though
   the patient is mildly rotated.  There appears to be mild shifting of th
   e
   cardiac silhouette towards the right side suggesting increase in left p
   leural
   effusion.  There is no right pneumothorax or enlarging pleural effusion
   .  Left
   PICC remains in place.  There is no evidence of CHF.
   Assessment and Plan
   64yo woman with paroxysmal Afib and new diagnosis of mediastinal [**Hospital **]
   transferred to the MICU with hypoxia and Afib with RVR.
   # Afib with RVR:
   Patient has known paroxysmal Afib.  Current episode most likely
   triggered by hypoxia.  Less likely to be due to ischemic event as EKG
   and cardiac enzymes negative.  TSH is normal.
   -          continue PO diltiazem; increase as tolerated by BP
   -          would not anticoagulate with heparin or coumadin at present
   given concern for bleed from mediastinal mass
   -          will discuss with IP if patient is candidate for stent; if
   no, would start ASA
   -          appreciate cardiology input
   # Hypoxia:
   Patient has obstruction of bronchus with collapse of left hemithorax
   and associated pleural effusion.  She is also thought to have
   post-obstructive pneumonia, although she has not developed fevers,
   leukocytosis, or positive sputum Cx.  Fluid overload may also play a
   role given that she has been receiving IV fluids for tumor lysis
   syndrome prophylaxis.
   -          Will discuss with IP whether patient is candidate for stent
   (per bronch report, obstruction is from outside the bronchus)
   -          treat possible PNA with vanc, zosyn for total of 10 day
   course (day 1 of both = [**2-13**])
   -          CXR currently without pulmonary edema; moreover, would not
   want to drop BP with lasix while up-titrating diltiazem.  Hold on
   diuresis for now.
   # Hilar mass:
   Prelim pathology suggestive of large cell carcinoma.
   -          f/u final pathology
   -          appreciate Rad/Onc recs
   -          follow tumor lysis labs (LDH, uric acid) [**Hospital1 **]
   -          patient has recent Echo with EF 60% in case adriamycin
   treatment indicated
   -          MRI with 2 liver lesions; CT head without mets
   # Metabolic alkalosis
   Multifactorial in setting of receiving bicarb for tumor lysis, GI
   losses (diarrhea), and diuresis.
   -          holding bicarb
   -          hold lasix because of concern for dropping BP as discussed
   above
   # HTN
   -          increasing diltiazem as tolerated by BP
   # C Diff
continue po vancomycin for total of 2 week course since
   admission (day 1 = [**2-13**])
   ICU Care
   Nutrition: Regular diet with ensure
   Lines:
   PICC Line - [**2159-2-19**] 02:15 PM
   Prophylaxis:
   DVT: heparin subQ
   Stress ulcer: H2 blocker
   Code status: Full code
   Communication with husband [**Name (NI) 1000**] [**Name (NI) 1001**] [**Telephone/Fax (1) 1002**]
   Disposition: transfer to floor

2159-02-20 09:10:00 Physician Attending Progress Note
Chief Complaint: AFib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o F s/p ASD repair [**11-9**] admitted with dyspnea, found to have left
   hilar mass.  Biopsy c/w large cell lung Ca.  Developed AFib with RVR on
   floor, unresponsive to metoprolol.  Sent to [**Hospital Unit Name 44**] for dilt gtt.
   24 Hour Events:
 PICC LINE - START [**2159-2-19**] 02:15 PM
   Was on dilt gtt overnight with rate control to 90s.  Started on po
   diltiazem and drip has been off since 2 AM with good control of heart
   rate.
   Seemed somewhat sedated on admission.  ABG showed metabolic alkalosis.
    mental status improved overnight.
                                 History obtained from Patient
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2159-2-20**] 04:58 AM
   Vancomycin - [**2159-2-20**] 04:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-2-19**] 10:36 PM
   Other medications:
   allopurinol, spiriva, advair, famotidine, dilt 45 mg po four times
   daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-20**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 90 (86 - 147) bpm
   BP: 107/52(64){107/49(64) - 136/73(86)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    894 mL
                                                                    200 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    594 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    940 mL
   Urine:
                                                                    650 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.52/48/75/35/13
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Absent :
   left)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, sternal wound unchanged
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   410 K/uL
   112 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.4 mEq/L
   13 mg/dL
   93 mEq/L
   136 mEq/L
   28.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
   WBC
   8.4
   7.0
   Hct
   29.2
   28.5
   Plt
   419
   410
   Cr
   1.1
   1.1
   TropT
   <0.01
   TCO2
   41
   Glucose
   137
   112
   Other labs: PT / PTT / INR:13.6/27.2/1.2, CK / CKMB /
   Troponin-T:138/2/<0.01, Lactic Acid:2.0 mmol/L, Ca++:10.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR yesterday with left sided collapse and mediastinal shift
   to right
   Bedside u/s performed - has small left pleural effusion
   Assessment and Plan
   64 y/o F with newly diagnosed lung cancer, admitted to the [**Hospital Unit Name 44**] with
   afib with RVR, now improved on oral diltiazem.
 ATRIAL FIBRILLATION (AFIB):  Improved rate control on diltiazem.  TTE
   this admission did not show any pericardial disease, so likely has afib
   as a result of atrial stretch from her ASD.  Would hold systemic
   anticoagulation given her risk of bleeding from mass with XRT, but
   would at least start aspirin.  However, will first discuss with IP and
   make sure she does not need further procedures.
 HYPOXEMIA:  Initially treated for post-obstructive pneumonia with
   vanc and zosyn.  She does not have a new fever or increased secretions
   to suggest HAP, so will continue her current antibiotics for empiric 10
   day course.  The collapse will hopefully respond to XRT.  Will discuss
   with IP whether they think she is amenable to stent.
 ALKALOSIS, METABOLIC:  Likely due to bicarbonate she was receiving in
   anticipation of tumor lysis.
 CANCER (MALIGNANT NEOPLASM), OTHER:  Likely large cell lung Ca per
   preliminary reports.  Getting XRT.  Chemo decision is pending final
   pathology.  Oncology following.
 COPD:  Cont spiriva and advair.  Not wheezing currently.
 HYPERTENSION, BENIGN
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE): on po vanco for total of 2 weeks from completion of
   antibiotics.
   ICU Care
   Nutrition:
   Comments: cardiac diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2159-2-19**] 02:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2159-02-21 01:02:00 Physician Attending Progress Note
Chief Complaint: tachycardia, a-fib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo F w/ complicated history well known to MICU team, transferred to
   oncology floor earlier today.
   Has remote history of a-fib treated with lopressor and dig.  Pt then
   developed recurrent a-fib after ASD repair in [**2158-11-2**],treated
   with amio.
   During this most recent admission on [**2-13**] she presented with back pain
   and SOB, found to have new L hilar mass, bx c/w large cell ca, also
   with post-obstructive pna, in Afib with RVR which was treated with dilt
   drip and transitioned to home dose of metoprolol and sent to floor.
   Yesterday developed recurrent a-fib with RVR to 130's and was
   transferred to [**Hospital Unit Name 44**], restarted on dilt gtt, transitioned to po
   diltiazem and called out to floor team earlier today with rate
   control.
   24 Hour Events:
   Tonight at 8:30 pm found to be in recurrent a-fib with RVR, rates in
   160's, blood pressure holding in 120's.  Treated with lopressor 5 X 2
   followed by dolt 10 X 2 without improvement in HR.  Transferred back to
   ICU and started on diltiazem gtt.
   Pt denies cp; change from baseline sob, F/C.   Notes occasional
   palpitations and diaphoresis.
                                               History obtained from Patient, HO
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2159-2-20**] 04:58 AM
   Vancomycin - [**2159-2-20**] 04:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-20**] 02:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-2-20**] 02:34 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Palpitations, Tachycardia
   Respiratory: Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Lymphadenopathy
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2159-2-21**] 12:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 106 (86 - 106) bpm
   BP: 143/68(85) {107/51(64) - 143/73(86)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                    894 mL
                                                                  1,169 mL
   PO:
                                                                    300 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    594 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                  1,620 mL
   Urine:
                                                                    650 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                   -451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress, Thin, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: mucus membranes dry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy, irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   basilar right, No(t) Bronchial: , No(t) Wheezes : , Diminished: left,
   Absent : left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   410 K/uL
   143 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.7 mEq/L
   15mg/dL
   95 mEq/L
   137 mEq/L
   28.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
   WBC
   8.4
   7.0
   Hct
   29.2
   28.5
   Plt
   419
   410
   Cr
   1.1
   1.1
   TropT
   < 0.01
   TCO2
   41
   Glucose
   137
   112
   Other labs: PT / PTT / INR:13.6/27.2/1.2, CK / CKMB /
   Troponin-T:138/2/0.02, Lactic Acid:2.0 mmol/L, LDH:1530, Ca++:10.0
   mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Imaging: cxr--unchanged from prior, white out L lung w/ volume loss,
   right without focal infiltrate
   ECG: AFIB with RVR 130-150's, no acute STTWC, slightly flattened t's
   v5-v6 stable
   Assessment and Plan
   64 yo F with newly diagnosed large cell lung ca, post-obstructive pna
   readmitted to [**Hospital Unit Name 44**] with recurrent AFIB with RVR.
 ATRIAL FIBRILLATION (AFIB)--AFib ? secondary to ASD and atrial
   stretch verses underlying pulmonary ds with post-obstructive pna,
   without evidence of ischemia
       rate is responding to diltiazem drip, would also dig load and
   monitor levels closely given slight increase in creatinine.  Plan to
   transition to PO diltiazem in am--will likely need higher dose than she
   received earlier.  Would hold on
        anticoagulation given the extent of lung mass and risk of bleeding
   given XRT.  Continue asa.
 HYPOXEMIA--post-obstructive pna and underlying copd.  Completing
   course of vanco/zosyn,.  O2 requirements remain stable and anticipate
   some improvement in O2 needs as obstruction responds to XRT.  Continue
   chest PT, nebs, suctioning'.
    IP assessment--not felt candidate for L main stem stent.
 ALKALOSIS, METABOLIC
serum bicarbonate level is trending down, most
   likely secondary to bicarbonate treatment for tumor lysis prevention as
   well as contraction from poor PO intake; gentle hydration
 CANCER (MALIGNANT NEOPLASM), OTHER--completing XRT, final bx stains
   pending, chemo plans per oncology
 HYPERTENSION, BENIGN
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)--diarrhea resolved, completing course of PO vanco X 2 wks
   after completion of antibx for pna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: picc line
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2159-02-21 07:46:00 Physician Resident Progress Note
Intern Progress Note [**2159-2-21**]     Patient: [**Known lastname 1001**], [**Known firstname 1040**]      [**Numeric Identifier 1041**]Chief Complaint: 64F s/p ASD repair with large cell lung CA and post
   obstructive [**Hospital 1035**] transferred to [**Hospital Unit Name 44**] for afib with RVR
   24 Hour Events:
   No major events overnight
 RADIATION THERAPY - At [**2159-2-20**] 02:33 PM
 PICC LINE - STOP [**2159-2-20**] 03:37 PM
 PICC LINE - START [**2159-2-21**] 12:00 AM
   blue port not drawing blood, blocked per floor nurse [**First Name (Titles) 1036**]
[**Last Name (Titles) 1037**]ies:
   Tetracycline yeast infection
   Rash; Metal Can/Brush Top Applicat (Miscell.) (Container Empty) Rash;
   Last dose of Antibiotics:
   Zosyn 4.5g IV q8 day 9
   Vancomycin 1g IV daily day 9
   Ciprofloxacin 500mg PO daily day 1
   Vancomycin 250mg PO q6
   Infusions:
   Diltiazem - 15 mg/hour
   Other medications:
   Diltiazem 75mg PO QID
   Allopurinol, Famotidine, Heparin SQ
   Fluticasone-Salmeterol, tiotropium
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Neurologic: not lightheaded or dizzy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-2-21**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 150 (92 - 153) bpm
   BP: 101/66(75) {84/51(65) - 143/81(86)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,169 mL
                                                                  1,202 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    569 mL
                                                                  1,002 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                  1,090 mL
   Urine:
                                                                  1,620 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -451 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R base, Absent : L
   side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   432 K/uL
   9.6 g/dL
   116 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.2 mEq/L
   16 mg/dL
   97 mEq/L
   137 mEq/L
   29.0 %
   6.4 K/uL
   Micro
   [**2-12**] blood cx negative
   [**2-13**] urine cx negative
   [**2-13**] urine legionella antigen negative
   [**2-14**] serum cryptococcal antigen negative
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
                             [**2159-2-21**]  04:58 AM
   WBC
   8.4
   7.0
   6.4
   Hct
   29.2
   28.5
   29.0
   Plt
   [**Telephone/Fax (3) 1038**]
   Cr
   1.1
   1.1
   1.1
   TropT
   <0.01
   0.01
   TCO2
   41
   Glucose
   137
   112
   116
   Other labs: PT / PTT / INR:13.6/27.2/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.0 mmol/L, LDH:1414 IU/L, Ca++:10.2
   mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   Likely provoked by lung malignancy versus post-obstructive pneumonia.
   No evidence of pericardial/cardiac malignant disease on recent imaging.
   However given apparent aggressive pace of her pulmonary malignancy will
   repeat TTE to reassess for evidence of pericardial mets that may be
   provoking afib.
   Rate remains inadequately controlled on diltiazem drip. Increase PO
   diltiazem today and continue diltiazem drip. Will review this choice
   with oncology re potential for interaction  with future chemotherapy
   (e.g. anthracyclines). Start heparin for anticoagulation, recognizing
   risk of bleeding related to malignancy. If patient has any evidence of
   bleeding (e.g. hemoptysis) will discontinue heparin.
 PNEUMONIA, OTHER
   Clinically good response to zosyn and vancomycin with no leukocytosis
   and resolved fevers, though still with impressive opacification L
   hemithorax. Would add ciprofloxacin for double gram negative coverage.
   As post-obstructive etiology sputum cx likely low yield
 in any case
   patient has been on broad spectrum abx for >1 week.
 CANCER (MALIGNANT NEOPLASM), OTHER
   Pathology prelim c/w large cell with neuroendocrine features. Oncology
   recommendations appreciated.
 HYPERTENSION, BENIGN
   On diltiazem as above.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continue PO vancomycin complete 14day course following end of broad
   spectrum antibiotics.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  no sliding scale needed
   Lines:
   PICC Line - [**2159-2-21**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  n/a
   Communication:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Correction: Patient not taking ciprofloxacin. She has clinically done
   well on zosyn/vancomycin so no need to expand coverage at this time.
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**], MD
   on:[**2159-2-21**] 11:40 ------

2159-02-21 10:00:00 Physician Attending Progress Note
Chief Complaint: atrial fibrillation with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2159-2-20**] 02:33 PM
 PICC LINE - START [**2159-2-21**] 12:00 AM
   blue port not drawing blood, blocked per floor nurse report
   Transferred to ICU for AFib unresponsive to bolus therpay.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2159-2-20**] 04:58 AM
   Vancomycin - [**2159-2-20**] 04:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-21**] 06:30 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-2-21**] 12:00 AM
   Lorazepam (Ativan) - [**2159-2-21**] 01:29 AM
   Diltiazem - [**2159-2-21**] 06:52 AM
   Other medications:
   h2b, sqh, vanco PO and IV, fluticasone, tiotropium, allopurinol,
   diltiazem oral
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Palpitations, Tachycardia
   Respiratory: Dyspnea, Tachypnea
   Heme / Lymph: Anemia
   Allergy / Immunology: Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-2-21**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 129 (92 - 153) bpm
   BP: 111/69(80) {84/61(65) - 143/81(86)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,169 mL
                                                                  1,360 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    569 mL
                                                                  1,160 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                  1,460 mL
   Urine:
                                                                  1,620 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -451 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: absent left breath sounds
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   432 K/uL
   116 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.2 mEq/L
   16 mg/dL
   97 mEq/L
   137 mEq/L
   29.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
                             [**2159-2-21**]  04:58 AM
   WBC
   8.4
   7.0
   6.4
   Hct
   29.2
   28.5
   29.0
   Plt
   [**Telephone/Fax (3) 1038**]
   Cr
   1.1
   1.1
   1.1
   TropT
   <0.01
   0.01
   TCO2
   41
   Glucose
   137
   112
   116
   Other labs: PT / PTT / INR:13.6/27.2/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.0 mmol/L, LDH:1414 IU/L, Ca++:10.2
   mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR with left hemileukothorax
   Assessment and Plan
   64 year-old woman returns to ICU for atrial fibrillation with RVR in
   the setting of complete lung collapse from large cell lung cancer with
   neuroendocrine features (presumptive)
 ATRIAL FIBRILLATION (AFIB)
   - continue diltiazem gtt
   - discuss with oncology whether drug interactions would prohibit
   amiodarone
   - if not, amio load since we are not achieving adequate rate control at
   present
   - repeat echocardiogram to exclude new pericardial disease
 ANTICOAGULATION RISK
   She has substantial risks for stroke, PE, and airway bleeding.  Given
   the debilitating nature of embolic strokes, and her high risk for such
   an event, we will give a trial of anticoagulation.  If she has any
   airway bleeding, would then stop.  If her tumor erodes  and causes
   communication between aiway and PA (which is possible), then whether
   anticoagulation is present or not will not affect outcome since such an
   event would be fatal.  Overall, then, the benefits of a trial of
   anticoagulation outweigh risks in this circumstance.
 PNEUMONIA, OTHER
   Postobstructive
   -- antibiotics x 8 - 15d course
 CANCER (MALIGNANT NEOPLASM), OTHER
   - radiation therapy
   - chemotherapy to begin when oncology dictates
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - oral vancomycin
   ICU Care
   Glycemic Control:  adequate
   Lines:
   PICC Line - [**2159-2-21**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: n/a
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2159-02-23 07:49:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR
   24 Hour Events:
   Cardiology--recommended stop amiodarone; use dilt gtt and metoprolol PO
   (awaiting final recs)
   XRT put on hold pending final decision about chemotherapy
   Oncology--plan to start chemo [**2-23**]
   Given IV fluids for hypercalcemia and poor po intake
   SUBJECTIVE:
   Has concerns about prognosis and the specifics of her chemotherapy
   Feels short of breath with activity
   Still constipated
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-22**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-23**] 05:55 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2159-2-22**] 08:20 PM
   Diltiazem - [**2159-2-23**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-23**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 116 (83 - 139) bpm
   BP: 118/82(91) {97/44(57) - 136/84(94)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,790 mL
                                                                  1,258 mL
   PO:
                                                                    340 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,450 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    910 mL
   Urine:
                                                                  2,900 mL
                                                                    910 mL
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                   -340 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Awake, oriented, NAD.  Pale.
   S1, S2, irreg irreg but not tachy, no murmur
   Lungs with absent BS on left side; crackles on left
   Abd soft, NT, ND
   No LE edema; pneumoboots in place, DP +2 b/l
   Labs / Radiology
   418 K/uL
   8.9 g/dL
   114 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.6 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   26.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
   WBC
   8.4
   7.0
   6.4
   5.5
   6.7
   5.7
   Hct
   29.2
   28.5
   29.0
   26.3
   28.1
   26.3
   Plt
   [**Telephone/Fax (2) 1086**]
   Cr
   1.1
   1.1
   1.1
   1.3
   1.3
   1.3
   TropT
   <0.01
   0.01
   TCO2
   41
   Glucose
   137
   112
   116
   [**Telephone/Fax (3) 1087**]
   Other labs: PT / PTT / INR:13.7/51.4/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL,
   LDH:1856 IU/L, Ca++:10.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   KUB [**2-22**]:  No obstruction
   CXR [**2-22**]:
   Median sternotomy wires are unchanged in position.  There
   continues to be complete opacification of the left hemithorax.  There i
   s no
   interval change in the degree of moderate rightward mediastinal shift.
    There
   is minimal right basilar atelectasis with a small right pleural effusio
   n.  No
   pneumothorax is seen.  Allowing for differences in patient positioning
   between
   studies, no significant interval change from [**2159-2-20**] is appreciated.
   Assessment and Plan
   64yo woman with new malignancy, probable large cell carcinoma, hypoxia,
   and Afib with RVR.
 ATRIAL FIBRILLATION (AFIB)
   In setting of hypoxia and mediastinal malignancy.  Thought to be
   dehydrated yesterday, but patient
s response to fluid challenge was to
   increase her urine output, suggesting that she is in fact euvolemic.
   TSH normal.  No evidence for ischemia.
   -          currently on diltiazem gtt; will wean if possible, but will
   not try to be aggressive with decreasing dilt given tenuous control of
   HR
   -          s/p amiodarone IV load, dc
d per cardiology recs
   -          continue to titrate up PO metoprolol as tolerated by BP
   -          anticoagulate with heparin gtt
   -          appreciate cardiology recs
 PNEUMONIA, OTHER
   Postobstructive
   -          continue vanc and zosyn for total of 2 week course (day 1 =
   [**2-13**]; last day to treat = [**2-26**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   Prelim diagnosis is large cell carcinoma with neuroendocrine features.
   Probably liver metastases.
   -          per oncology, plan to initiate chemotherapy today in setting
   of rapid progression of tumor
   -          plan to start taxol and carboplatin today
   -          will watch for potential toxicities:  taxol
anaphylaxis
   (would give more IV steroid), bradycardia; carboplatin
acute renal
   failure
   -          will start G-CSF tomorrow
   -          appreciate rad/onc input (per oncology, plan will be to
   continue XRT)
 HYPERCALCEMIA (HIGH CALCIUM)
   -          awaiting PTHrp
   -          Calcium improved with IV fluids
   -          Will check ionized calcium given that albumin is low, so
   total calcium is likely to be underestimation of extent of
   hypercalcemia
   -          No indication for pamidronate at this time
 HYPOXEMIA
   -          patient has obstruction of left main bronchus with collapsed
   left lung
   -          not a candidate for stenting per IP
   -          monitor daily CXR
 NAUSEA / VOMITING
   -          likely to be from compression of esophagus, though
   constipation may contribute
   -          likely to worsen with initiation of chemotherapy
   -          zofran and compazine
   -          KUB without evidence of obstruction
   -          Bowel regimen
 HYPERTENSION, BENIGN
   -          diltiazem, beta blocker
   # C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -          continue PO vanc for 14 day course after IV vanc/zosyn
   stopped
   -          not currently having diarrhea
   ICU Care
   Nutrition: Regular diet with ensure; poor PO intake
   Glycemic Control:  SSI with sugars 111-167 in setting of getting D5;
   monitor for now
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Critical Care Staff Addendum
   Ms. [**Known lastname 1001**] was seen and examined with the ICU team; Dr. [**Last Name (STitle) 512**]
   note reflects my input.  I would add/emphasize that she continues to
   have fairly difficult-to-control atrial fibrillation, but that her
   respiratory status remains stable.  We appreciated oncology
s help, and
   understand that they are planning to begin systemic therapy today.
   Cardiology
s help is also appreciated, and we have stopped the
   amiodarone for now and are focusing on nodal agents for rate control.
   Other issues as described by Dr. [**Last Name (STitle) 512**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2159-2-23**] 18:06 ------

2159-02-24 07:54:00 Physician Resident Progress Note
Chief Complaint: 64F with large cell lung CA and afib with RVR
   24 Hour Events:
   Treated with first dose of carboplatin and taxol
   Question of altered mental status prior to chemo, but was oriented with
   nonfocal neurologic exam
   Allergies:
   Tetracycline yeast infection
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-23**] 07:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-24**] 05:31 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Diltiazem - 15 mg/hour
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-2-24**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 90 (74 - 138) bpm
   BP: 127/70(83) {99/59(70) - 164/107(111)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  4,293 mL
                                                                  1,026 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  3,943 mL
                                                                  1,026 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                    960 mL
   Urine:
                                                                  4,210 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     83 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R base, Absent : L
   side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, sleepy
   Labs / Radiology
   373 K/uL
   8.5 g/dL
   156 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.4 mEq/L
   15 mg/dL
   100 mEq/L
   133 mEq/L
   25.2 %
   3.3 K/uL
        [image002.jpg]
   PTT 104.7 INR 1.2 LDH 1706 Uric acid 3.3
   CXR no significant change, L hemithorax opacified
   Micro no new data
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
   WBC
   8.4
   7.0
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   Hct
   29.2
   28.5
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   Plt
   [**Telephone/Fax (3) 1086**]
   440
   373
   Cr
   1.1
   1.1
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   TropT
   <0.01
   0.01
   TCO2
   41
   Glucose
   137
   112
   116
   [**Telephone/Fax (3) 1087**]
   105
   156
   Other labs: PT / PTT / INR:13.6/104.7/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL,
   LDH:1706 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   In setting of hypoxia and mediastinal malignancy.  Thought to be
   dehydrated yesterday, but patient
s response to fluid challenge was to
   increase her urine output, suggesting that she is in fact euvolemic.
   TSH normal.  No evidence for ischemia.
   -          currently on diltiazem gtt; will wean if possible, but will
   not try to be aggressive with decreasing dilt given tenuous control of
   HR
   -          s/p amiodarone IV load, dc
d per cardiology recs
   -          continue to titrate up PO metoprolol as tolerated by BP
   -          anticoagulate with heparin gtt
   -          appreciate cardiology recs
 PNEUMONIA, OTHER
   Postobstructive
   -          continue vanc and zosyn for total of 2 week course (day 1 =
   [**2-13**]; last day to treat = [**2-26**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   Prelim diagnosis is large cell carcinoma with neuroendocrine features.
   Probably liver metastases.
   -          per oncology, plan to initiate chemotherapy today in setting
   of rapid progression of tumor
   -          plan to start taxol and carboplatin today
   -          will watch for potential toxicities:  taxol
anaphylaxis
   (would give more IV steroid), bradycardia; carboplatin
acute renal
   failure
   -          will start G-CSF tomorrow
   -          appreciate rad/onc input (per oncology, plan will be to
   continue XRT)
 HYPERCALCEMIA (HIGH CALCIUM)
   -          awaiting PTHrp
   -          Calcium improved with IV fluids
   -          Will check ionized calcium given that albumin is low, so
   total calcium is likely to be underestimation of extent of
   hypercalcemia
   -          No indication for pamidronate at this time
 HYPOXEMIA
   -          patient has obstruction of left main bronchus with collapsed
   left lung
   -          not a candidate for stenting per IP
   -          monitor daily CXR
 NAUSEA / VOMITING
   -          likely to be from compression of esophagus, though
   constipation may contribute
   -          likely to worsen with initiation of chemotherapy
   -          zofran and compazine
   -          KUB without evidence of obstruction
   -          Bowel regimen
 HYPERTENSION, BENIGN
   -          diltiazem, beta blocker
   # C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -          continue PO vanc for 14 day course after IV vanc/zosyn
   stopped
   -          not currently having diarrhea
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: glucose
   118-224
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   20 Gauge - [**2159-2-24**] 01:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2159-02-24 10:09:00 Physician Attending Progress Note
Chief Complaint: 64 yr female with ASD repair in fall, recent SOB, new
   dx large primary Lung CA, Stage III
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Carboplatin, Taxol, Receiving Rad Tx as well
   No change in neuro exam
   Post obstructive PNA
   24 Hour Events:
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-23**] 07:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-24**] 05:31 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-2-23**] 03:22 PM
   Diltiazem - [**2159-2-24**] 05:31 AM
   Other medications:
   fluticasone, tiotropium, allopurinol, heparin by IVSS,
   proclhorperazine, RISS, colace, dilt po, lopressor 50 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-24**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 90 (76 - 138) bpm
   BP: 123/73(86) {106/62(74) - 164/107(111)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia) , AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  4,293 mL
                                                                  1,259 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  3,943 mL
                                                                  1,259 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                  1,280 mL
   Urine:
                                                                  4,210 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     83 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Dullness : L hemithorax), (Breath
   Sounds: No(t) Diminished: , Absent : L hemithorax)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   373 K/uL
   156 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.4 mEq/L
   15 mg/dL
   100 mEq/L
   133 mEq/L
   25.2 %
   3.3 K/uL
        [image002.jpg]
                             [**2159-2-19**]  02:41 PM
                             [**2159-2-19**]  03:15 PM
                             [**2159-2-20**]  04:34 AM
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
   WBC
   8.4
   7.0
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   Hct
   29.2
   28.5
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   Plt
   [**Telephone/Fax (2) 1086**]
   440
   373
   Cr
   1.1
   1.1
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   TropT
   <0.01
   0.01
   TCO2
   41
   Glucose
   137
   112
   116
   [**Telephone/Fax (3) 1087**]
   105
   156
   Other labs: PT / PTT / INR:13.6/104.7/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL,
   LDH:1706 IU/L, Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR - white out l hemithorax, ? CHF on right versus metastatic
   tumor
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   dilt, metoprolol - good control when at rest, increases with activity
   anticoagulated
 PNEUMONIA, OTHER
   Postobstructive, chemo, continuing AB - Vanc/Zosyn
 CANCER (MALIGNANT NEOPLASM), OTHER
   lung CA - Chemo/Rad Rx
 HYPERCALCEMIA (HIGH CALCIUM)
   resolved, PTH level pending
 HYPOXEMIA
   resolved on supplemental oxygen, has hx of COPD
 NAUSEA / VOMITING
   not current;y active
 HYPERTENSION, BENIGN
   controlled
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   oral VANCO
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   20 Gauge - [**2159-2-24**] 01:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2159-02-25 08:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had prolonged respiratory decompensation with increased work of
   breathing, dropping stas with increasing O2 requirement, and
   AMS/delirium
   Treated possible flash vs. bronchospasm with lasix, morphine, nebs,
   steroids, and BiPAP.
   Needed ativan and haldol for sedation
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-24**] 05:31 AM
   Vancomycin - [**2159-2-24**] 07:27 PM
   Piperacillin - [**2159-2-25**] 05:14 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Diltiazem - 20 mg/hour
   Other ICU medications:
   Diltiazem - [**2159-2-24**] 10:51 AM
   Metoprolol - [**2159-2-25**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-25**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 129 (81 - 141) bpm
   BP: 142/76(91) {90/63(71) - 161/89(97)} mmHg
   RR: 20 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,791 mL
                                                                    452 mL
   PO:
             TF:
   IVF:
                                                                  2,791 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  1,000 mL
   Urine:
                                                                  4,010 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,219 mL
                                                                   -548 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.40/52/81.[**Numeric Identifier 253**]/35/5
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Thin, Anxious, ill appearing, currently sedated
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular and
   tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), decreased BS on L with
   small areas of exppiraotry wheezing, on R basilar fine crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   388 K/uL
   8.8 g/dL
   142 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   23 mg/dL
   98 mEq/L
   138 mEq/L
   25.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
   WBC
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   Hct
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   Plt
   [**Telephone/Fax (2) 1122**]
   388
   Cr
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   TropT
   0.01
   TCO2
   30
   33
   Glucose
   116
   217
   127
   114
   105
   156
   175
   142
   Other labs: PT / PTT / INR:13.9/77.4/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Imaging: [**2-25**] CXR PND
   [**2-24**] CXR
   Volume in the right lung is smaller, probably due to early edema.  Left
   hemithorax remains uniformly opacified by a combination of left lung
   collapse
   and some pleural effusion.  Left PIC catheter can be traced as far as
   the left brachiocephalic vein, but the tip is indistinct.  No
   pneumothorax.
   Microbiology: none new
   Assessment and Plan
   64F with large cell lung CA with L lung collapse, afib with  RVR, and
   worsening respiratory status.
 ATRIAL FIBRILLATION (AFIB) - Likely has irritable atria secondary to
   her extensive mediastinal and pulmonary disease
   -          poor control now that pt not taking po (off po dilt)
   -          maxed out on diltiazem drip
   -          concern that metoprolol may be causing bronchospasm but will
   dose standing IV while no po access
   -          place NGT today, restart po dilt and metoprolol
   -          would discuss reinstituting amiodarone loading with
   cardiology today
   -          On IV heparin for anticoagulation, hold prior to NGT
   placement
 HYPOXEMIA
   -          Likely multifactorial in setting of extensive malignancy,
   post-obstructive pneumonia, and evidence of worsening edema on chest
   film.
   -          Recheck ABG today off BiPAP
   -          Unable to durese further given rise in creatinine
   -          No evidence of EKG changes for cardiac etiology for
   respiratory decompensation
   -          Unlikely PE given that she is on heparin gtt
   -          Doubt central etiology or decreased respiratory drive
   -          Could be element of COPD given her smoking history and CXR
   appearance
   -          Would continue to treat with nebulizers, prn NIPPV
   -          IP cannot intervene to expand L lung
   -          Treatment options are very limited at this point
 AMS/agitation
 likely a complication of medications (i.e. steroids)
   and hypoxia
   -          No evidence of CNS mets on scan
   -          Doubt contribution for hypercalcemia
   -          s/p steroid course for peri-chemo nausea, this may be
   contributing to AMS
 Postobstructive pneumonia
   -          Afebrile, not coughing. Increased WBC likely due to steroids
   -          Complete 14 day course of empiric vancomycin and zosyn last
   day [**2-26**].
 Lung cancer - Prelim diagnosis is large cell carcinoma with
   neuroendocrine features.  Probably liver metastases.  Bronchoscopy
   showed extraluminal compression L side, not a candidate for stenting
   per IP.
   -          Being treated with radiation and now s/p first dose of taxol
   and carboplatin given Friday [**2-23**]
   -          potential chemotherapy-related toxicities include:
   taxol
anaphylaxis (would give more IV steroid), bradycardia;
   carboplatin
acute renal failure.
   -          Continue neupogen per oncology recs
   -          Finsihed peri-chemo steroids
   -          Planning for next dose radiation next week
   -          f/u onc recs
 ARF
   -          send urine lytes for FeUrea
   -          likely prerenal given recent diuresis but could also be
   nephrotoxicity from chemo as above
   -          unlikely to be tumor lysis given low uric acid, K, etc, but
   should trend tumor lysis labs
   -          avoid diuresis presently, goal is even to 500cc positive
   today
 HYPERCALCEMIA (HIGH CALCIUM)
   -          PTH-RP pending to eval for hypercalcemia of malignancy
   -          Discuss bisphosphonate with oncology.
 HYPERTENSION
   -          On diltiazem gtt and metoprolol IV at present, BPs adequate
 h/o C. difficile colitis
   -          Afebrile with benign abdominal exam, no diarrhea
   -          Complete 14 day course of PO vancomycin following
   discontinuation of broad spectrum systemic antibiotics.
   ICU Care
   Nutrition:
   Comments: NPO currently, needs NGT placement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
 aim for discussion with family and oncology
   today
   Disposition: ICU

2159-02-25 10:53:00 Physician Attending Progress Note
Chief Complaint: 64 Woman with large cell CA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Change in MS, increased WOB, needed NIV, nebs/steroids, sedated with
   Ativan
   Off NIV this AM tolerating well
   24 Hour Events:
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-24**] 05:31 AM
   Vancomycin - [**2159-2-24**] 07:27 PM
   Piperacillin - [**2159-2-25**] 05:14 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Diltiazem - 20 mg/hour
   Other ICU medications:
   Diltiazem - [**2159-2-24**] 10:51 AM
   Metoprolol - [**2159-2-25**] 06:40 AM
   Other medications:
   fluticasone, allopurinol, RISS, filgastrin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-25**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 148 (81 - 148) bpm
   BP: 133/85(95) {90/63(71) - 161/89(97)} mmHg
   RR: 29 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,791 mL
                                                                    544 mL
   PO:
             TF:
   IVF:
                                                                  2,791 mL
                                                                    544 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  1,220 mL
   Urine:
                                                                  4,010 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,219 mL
                                                                   -676 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: 7.40/52/81.[**Numeric Identifier 253**]/35/5
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   Left), (Breath Sounds: Diminished: Left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Tactile stimuli, Oriented (to): 0,
   Movement: Non -purposeful, Sedated, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   388 K/uL
   142 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   23 mg/dL
   98 mEq/L
   138 mEq/L
   25.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
   WBC
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   Hct
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   Plt
   [**Telephone/Fax (3) 1122**]
   388
   Cr
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   TropT
   0.01
   TCO2
   30
   33
   Glucose
   116
   217
   127
   114
   105
   156
   175
   142
   Other labs: PT / PTT / INR:13.9/78.5/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR - largely unchanged - ? pleural effusion
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   Rate poorly controlled on dilt alone; restart Amio, po dilt after NG
   replaced
 PNEUMONIA, OTHER
   Postobstructive, chemo/XRT
   Pip/Vanco - finishes course tomorrow
 CANCER (MALIGNANT NEOPLASM), OTHER
   Chemo last Friday/ XRT
 HYPERCALCEMIA (HIGH CALCIUM)
   Controlled
 HYPOXEMIA
   Needed intermittent BiPAP
 NAUSEA / VOMITING
   Not a current issue
 HYPERTENSION, BENIGN
   controlled
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   oral vanc when NG in place
   ICU Care
   Nutrition:
   Comments: NPO at current time
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI when NG placed
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:  Family very surprised to
   hear that prognosis was poor
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2159-02-26 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2159-2-25**] 06:52 PM
 NON-INVASIVE VENTILATION - STOP [**2159-2-25**] 08:19 PM
   - Switched to amiodarone gtt for rapid rate up to 150, mild improvement
   in rate
   - Became acutely dyspneic in evening, unclear why, bronchial BS on
   right, no change in CXR; improved with biPAP, but agitated, pulling at
   mask
   - Family meeting held:  patient made CMO
   - Patient became increasingly somnolent during night
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-24**] 05:31 AM
   Vancomycin - [**2159-2-25**] 07:47 PM
   Piperacillin - [**2159-2-25**] 09:12 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Diltiazem - 20 mg/hour
   Other ICU medications:
   Metoprolol - [**2159-2-25**] 12:00 PM
   Morphine Sulfate - [**2159-2-25**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt minimally conversant [**2-3**] somnolence
   Flowsheet Data as of  [**2159-2-26**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 114 (110 - 151) bpm
   BP: 104/78(83) {102/60(71) - 151/94(102)} mmHg
   RR: 11 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,691 mL
                                                                    280 mL
   PO:
             TF:
   IVF:
                                                                  1,691 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    420 mL
   Urine:
                                                                  1,970 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -279 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 420 (420 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 70%
   SpO2: 94%
   ABG: ////
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   388 K/uL
   8.8 g/dL
   142 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   23 mg/dL
   98 mEq/L
   138 mEq/L
   25.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
   WBC
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   Hct
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   Plt
   [**Telephone/Fax (3) 1122**]
   388
   Cr
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   TropT
   0.01
   TCO2
   30
   33
   Glucose
   116
   217
   127
   114
   105
   156
   175
   142
   Other labs: PT / PTT / INR:13.9/78.5/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   64yoF with large cell lung ca with L lung collapse, afibwith RVR and
   worseing respiratory status made CMO overnight.
 ATRIAL FIBRILLATION (AFIB)
 likely has irritable atria [**2-3**] extensive
   mediastinal and pulmonary disease
   - dilt gtt maxed out
   - restarted amiodarone gtt with mild improvement
   - all meds now d/c
 HYPOXEMIA
 likely multifactorial in setting of extensive malignancy,
   post-obstructive PNA, and evidence of worsening edema on chest x-ray.
   -          unable to diurese given rising creatnine
   -          no evidence of EKG changes for cardiac etiology for
   respiratory decompensation
   -          morphine for comfort
 PNEUMONIA, OTHER
 Postobstructive
   -          day 14 empiric vanc and zosyn, course now complete
 CANCER (MALIGNANT NEOPLASM), OTHER - prelim dx large cell carcinoma
   with neuroendocrine features and probable liver mets.  Bronch showed
   extraluminal compression L side, not a candidate for stenting per IP.
   s/p taxol and carboplatin [**2-23**].
   -          was undergoing treatment with rads, question of whether
   palliative rads an option as CMO
   -          f/u onc recs
   ICU Care
   Nutrition:
    NPO
   Glycemic Control:
   Lines:   PICC Line
 [**2159-2-20**]
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:  ICU

2159-02-26 12:51:00 Physician Attending Progress Note
Chief Complaint: recurrent atrial fib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo F complicated course, sternal  wound infection post ASD repair,
   newly diagnosed large cell lung ca  c/b post obstructive pna ,
   recurrent afib with rvr
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2159-2-25**] 06:52 PM
 NON-INVASIVE VENTILATION - STOP [**2159-2-25**] 08:19 PM
   switched to amio gtt for rapid heart rate --became acutely dyspneic
   with decreased breath sounds R > L
   trialed bipap but became  agitated requiring restraints
   family meeting yesterday
 changed code staus to CMO--no further lab
   checks
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-2-24**] 05:31 AM
   Vancomycin - [**2159-2-25**] 07:47 PM
   Piperacillin - [**2159-2-25**] 09:12 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Morphine Sulfate - [**2159-2-26**] 10:00 AM
   Lorazepam (Ativan) - [**2159-2-26**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-2-26**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 147 (110 - 147) bpm
   BP: 114/85(91) {102/60(71) - 151/87(97)} mmHg
   RR: 29 (11 - 30) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,691 mL
                                                                    455 mL
   PO:
             TF:
   IVF:
                                                                  1,691 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    810 mL
   Urine:
                                                                  1,970 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -279 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 420 (420 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 70%
   SpO2: 87%
   ABG: ////
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   388 K/uL
   142 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   23 mg/dL
   98 mEq/L
   138 mEq/L
   25.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
   WBC
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   Hct
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   Plt
   [**Telephone/Fax (3) 1122**]
   388
   Cr
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   TropT
   0.01
   TCO2
   30
   33
   Glucose
   116
   217
   127
   114
   105
   156
   175
   142
   Other labs: PT / PTT / INR:13.9/78.5/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   64 yo F with complicated course--sternal  wound infection post ASD
   repair, newly diagnosed large cell lung ca  c/b post obstructive pna ,
   recurrent afib with rvr  changed to CMO after family meeting yesterday
   #  CMO
blood draws and antibx d/c
   Morphine for comfort
   Palliative care c/s and social work/case management regarding
   arranegemnts for home hospice care
 ATRIAL FIBRILLATION (AFIB)
will d/c drips for rate control, consider
   resuming peritransfer (hospice) if rates acutely increase
 PNEUMONIA, OTHER
   Post-obstructive, extensive tumor burden, NC o2 for comfort
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPOXEMIA
 HYPERTENSION, BENIGN
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :  icu pending arrangements for home hospice, may need to
   transfer to floor bed if process will take several days
   Total time spent:  35

2159-02-27 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - code status reversed to DNR/DNI until pt can be seen by rad onc to
   determine if she is a candidate for palliative rads( she had been
   receiving therapeutic rads)
   - all meds d/c'd, including amiodarone and dilt
   - restarted diet
   Pt doing well this am, alert and asking for breakfast. Pt denying any
   CP/SOB/Abd pain.
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-25**] 07:47 PM
   Piperacillin - [**2159-2-25**] 09:12 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate prn
   Lorazepam (Ativan)  prn
   Zofran prn
   Other medications:
   Flowsheet Data as of  [**2159-2-27**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 156 (128 - 162) bpm
   BP: 104/66(109) {104/53(67) - 131/86(109)} mmHg
   RR: 25 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                    673 mL
                  PO:
                  TF:
   IVF:
                                                                    673 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    480 mL
   Urine:
                                                                  1,090 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -417 mL
                                                                   -480 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: NAD, comfortable
   HEENT: NCAT/EOMI, no asymetry
   CV: irreg & tachy in 150s, unable to apprec any m/r/g
   RESP: CTAB, decBS over LLL base
   ABD: soft, NT/ND/NABS
   Extr: no c/c/e
   Neuro: AXO
   [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
   WBC
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   Hct
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   Plt
   [**Telephone/Fax (3) 1122**]
   388
   Cr
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   TropT
   0.01
   TCO2
   30
   33
   Glucose
   116
   217
   127
   114
   105
   156
   175
   142
   Other labs: PT / PTT / INR:13.9/78.5/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan:
   64 y/o F with Large Cell lung Cancer with L lung collapse, transferred
   for Afib with RVR and worsening resp status.  MS significantly improved
   today, per d/w Hem/Onc, resumed FULL CODE status & resuming palliative
   chemo/XRT.
 ATRIAL FIBRILLATION (AFIB): Pt in A.Fib with RVR in the 150s,
   decision had been made to assume [**Telephone/Fax (3) 617**] and all meds were d/c
d [**2-26**].
   However, pt was much more alert today and pt has been changed back to
   DNR/DNI.
   - restarting diltiazem gtt today
   - Metoprolol 12.5mg TID and titrate up as BP can tolerate
   - monitoring HRs with goal of 90-110 if possible
   - not a candidate for anticoagulation due to hemorrhagic tumor burden
 RESP FAILURE:  etiology due to bulky pulm tumor burden encasing Left
   mainstem bronchus and left lobe collapse.  Currently, resp status is
   stable, satting well on 5L NC with no e/o resp distress.  Pt completed
   a course of Vanc/Zosyn for post-obstructive PNA, will CIS & restart ABX
   prn.
   - supplemental oxygen as needed
   - plan for palliative XRT to [**Month (only) 38**] tumor burden
   - completed a course for post obstructive PNA
   - resume inhalers advair, xopenex, Alb/Atrovent nebs prn
 CANCER (MALIGNANT NEOPLASM), [**Name (NI) 1196**] Pt with large cell Cancer &
   extensise pulm mets.  Pt resumed full code status  today per
   discussions with Hem/Onc today, plan to resume palliative XRT in am and
   potential chemo to potentiate XRT.
   - XRT in am, will d/w hem/onc re plans for palliative chemo
 HYPERCALCEMIA: resolved, follow up am labs
C. DIFF: Pt was recently diagnosed with C. diff while on Vanc/Zosyn,
   meds d/c
d when made [**Last Name (LF) 617**], [**First Name3 (LF) 178**] resume
   - restart po Vanc today for a presumed 14 day course post Abx.
   ICU Care
   Nutrition:  Regular PO diet
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT:  Heparin sc TID
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU

2159-02-27 13:12:00 Physician Attending Progress Note
Chief Complaint: Atrial fibrillation with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 64 yo F with complicated course--sternal  wound infection post ASD
   repair, newly diagnosed large cell lung ca  c/b post obstructive pna ,
   recurrent afib with rvr,
   24 Hour Events:
   * Code status changed from [** 617**] to DNR/DNI, awaiting input for Rad Onc
   on utility of palliate XRT
   * Amio and dilt GTTs stopped yesterday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-25**] 07:47 PM
   Piperacillin - [**2159-2-25**] 09:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Ativan PRN, Morphine PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-2-27**] 01:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 175 (137 - 175) bpm
   BP: 128/58(76) {104/53(67) - 131/93(109)} mmHg
   RR: 22 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                    673 mL
                                                                    120 mL
   PO:
                  120 mL
   TF:
   IVF:
                                                                    673 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    770 mL
   Urine:
                                                                  1,090 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -417 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: Left base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin without rash
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Labs / Radiology
   8.8 g/dL
   388 K/uL
   142 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   23 mg/dL
   98 mEq/L
   138 mEq/L
   25.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2159-2-21**]  04:58 AM
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
   WBC
   6.4
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   Hct
   29.0
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   Plt
   [**Telephone/Fax (2) 1122**]
   388
   Cr
   1.1
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   TropT
   0.01
   TCO2
   30
   33
   Glucose
   116
   217
   127
   114
   105
   156
   175
   142
   Other labs: PT / PTT / INR:13.9/78.5/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan:  64 yo F with complicated course--sternal  wound
   infection post ASD repair, newly diagnosed large cell lung ca  c/b post
   obstructive pna , recurrent afib with rvr
 ATRIAL FIBRILLATION (AFIB) -- No significant change in rate off dilt
   and amio drips.
   - Given that she is no longer [**Last Name (LF) 617**], [**First Name3 (LF) 178**] ask cards to re-evaluate for
   feasibility of rate control, preferably with an oral [**Doctor Last Name **].
 PNEUMONIA, OTHER: Post obstructive, completed course of vanc/zosyn
 CANCER (MALIGNANT NEOPLASM), OTHER: No further chemotherapy per
   oncology due to poor performance status.
will again discuss possible
   palliative treatment options with onc service.   Will discuss with rad
   onc role of palliative XRT. Per family, goals of care are longer life
   if that life is quality (i.e. able to interact with family). Need to
   confirm this with patient, and discuss with oncology and rad onc
   whether further XRT and/or chemo is consistent with these goals.
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPOXEMIA: Currently stable on NC O2
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
would resume treatment now that no longer [**Last Name (LF) 617**], [**First Name3 (LF) 178**] need 2
   additional weeks treatment since completing antibx for post-obstructive
   pna
   ICU Care
   Nutrition:
         Regular diet
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT:  sc heparin
   Stress ulcer:
   VAP: not intubated
   Comments:
   Communication: Family meeting held , ICU consent signed
   Code status: changed to full code
   Disposition : ICU
   Total time spent: 35

2159-02-28 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   resumed FULL CODE status per discussions with hem/onc & palliative XRT
   in am
   - all meds resumed, on diltiazem drip with Metoprolol, titrating up for
   better rate control
   - restarted diet
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-25**] 07:47 PM
   Piperacillin - [**2159-2-25**] 09:12 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-2-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Respiratory: Cough, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2159-2-28**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 122 (121 - 176) bpm
   BP: 109/66(76) {94/41(58) - 137/86(113)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                    418 mL
                                                                    213 mL
   PO:
                                                                    320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     98 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    380 mL
   Urine:
                                                                  1,340 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -922 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) No acute distress, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, tachycardic,
   irregularly irregular rhythm.  promminent V waves
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   206 K/uL
   10.1 g/dL
   110 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.2 mEq/L
   24 mg/dL
   100 mEq/L
   139 mEq/L
   29.8 %
   2.3 K/uL
        [image002.jpg]
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
                             [**2159-2-28**]  05:46 AM
   WBC
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   2.3
   Hct
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   29.8
   Plt
   [**Telephone/Fax (3) 1208**]
   206
   Cr
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   0.8
   TCO2
   30
   33
   Glucose
   [**Telephone/Fax (3) 1209**]05
   156
   175
   142
   110
   Other labs: PT / PTT / INR:13.6/24.2/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   64 y/o F w/ Large cell lung CA w/ left lung collapse, transferred for
   AF w/ RVR and worsening resp status requiring intubation.
   # Respiratory failure:  etiology due to bulky pulm tumor burden
   encasing left ainstem bronchus and left lobe collapse.  Pt now
   extuabated and resp satus stable on 4L nC w/o resp distress.  Patient
   completed a course of vanc/zosyn for post-obstructive PNA last day
   [**2-25**].  CIS and restart abx.  Today
s CXR shows improved LL air field.
   # Atrial Fibrilllation:  Patint w/ AF w/ RVR up to 180 yesterday, asx
   throughout.  Has been triggered on floors and transferred to unit twice
   before.  Now rate controlled on maxed out dilt gtt and PO metoprolol.
   n        start dilt 60mg, then increase to 120mg and down titrate gtt
   n        cont metoprolol.
   n        Goal HR 90-110
   n        CHADS score of 0, on ASA.  Given bleeding risk, will defer
   further AC at this time
   #Cancer:  Restarted XRT today after was stopped in setting of worsening
   mental status, which has now resolved.  Will receive 10 more
   treatments.  Likely no more chemo, but to meet w/ fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1232**]
   tomorrow to discuss.
   #C.Diff:  Pt was recently dx w/ C. diff while on vanc/zosy, had been on
   PO vanc, which was d/c
d when patient made CMO.  Restarted vanc
   yesterday for 14 day course post abx.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2159-02-28 12:38:00 Physician Attending Progress Note
Chief Complaint: post-obstructive pna, large cell lung ca, hypoxia and
   recurrent a fib with rvr
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
     64 yo F with complicated course--sternal  wound infection post ASD
   repair, newly diagnosed large cell lung ca  c/b post obstructive pna ,
   recurrent afib with rvr
   24 Hour Events:
   additional family mtgs with reversal of code status to full--rad onc
   and oncology meetings yesterday with decision to contoinue with
   palliative xrt x 11 cycles starting today, with [**Last Name (un) 1213**] to readdress
   futurwe chemo discussion
   heart rate control improved with metoprolol and dig , on dilt ggt
   History obtained from Patient, house staff
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-2-25**] 07:47 PM
   Piperacillin - [**2159-2-25**] 09:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-2-28**] 12:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: Chest pain
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Flowsheet Data as of  [**2159-2-28**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 122 (121 - 176) bpm
   BP: 109/66(76) {94/41(58) - 137/86(113)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                    418 mL
                                                                    252 mL
   PO:
                                                                    320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     98 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    380 mL
   Urine:
                                                                  1,340 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -922 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   206 K/uL
   110 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.2 mEq/L
   24 mg/dL
   100 mEq/L
   139 mEq/L
   29.8 %
   2.3 K/uL
        [image002.jpg]
                             [**2159-2-21**]  04:22 PM
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
                             [**2159-2-28**]  05:46 AM
   WBC
   5.5
   6.7
   5.7
   6.2
   3.3
   13.0
   2.3
   Hct
   26.3
   28.1
   26.3
   26.4
   25.2
   25.2
   29.8
   Plt
   [**Telephone/Fax (3) 1208**]
   206
   Cr
   1.3
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   0.8
   TCO2
   30
   33
   Glucose
   [**Telephone/Fax (3) 1209**]05
   156
   175
   142
   110
   Other labs: PT / PTT / INR:13.6/24.2/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: improvement in LUL aeration, r remains realtively clear c/t
   Assessment and Plan
     64 yo F with complicated course--sternal  wound infection post ASD
   repair, newly diagnosed large cell lung ca  c/b post obstructive pna ,
   recurrent afib with rvr, improving mental staus and respiratory status
   now with referrsal of code staus from CMO to full, continuing with
   palliative XRT
 ATRIAL FIBRILLATION (AFIB) -- improving rate control...now on
   metoprolol PO, dig, continue to titrate metoprolol and stop dilt drip,
   holding on anticpagulation given tumeo burden , eroding to PA, can
   continue to readdress pending ocurse, continue asa
 PNEUMONIA, OTHER: Post obstructive, completed course of vanc/zosyn,
   cxr improving aeration in LUL likely some XRT verses checmo response
 CANCER (MALIGNANT NEOPLASM), OTHER: No further chemotherapy per
   oncology due to poor performance status.
will again discuss possible
   palliative treatment options with onc service.   Will discuss with rad
   onc role of palliative XRT. Per family, goals of care are longer life
   if that life is quality (i.e. able to interact with family). Need to
   confirm this with patient, and discuss with oncology and rad onc
   whether further XRT and/or chemo is consistent with these goals.
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPOXEMIA: Currently stable on NC O2
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
conpleting 2 additional weeks treatment since completing
   antibx for post-obstructive pna
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  h2b
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU pending stabilization of rate control off gtts meds
   Total time spent: 40  minutes

2159-03-01 07:57:00 Physician Resident Progress Note
Chief Complaint: Tachycardia
   24 Hour Events:
 RADIATION THERAPY - At [**2159-2-28**] 12:49 PM
   -- restarted palliative XRT yesterday and tolerated well
   -- started on PO dilt, increased dose of BB to 50 now 75, and d/c'd
   dilt gtt.  Still tachycardic to 130s
   History obtained from Patient
   Allergies:
   History obtained from PatientTetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2159-2-28**] 11:56 AM
   Heparin Sodium (Prophylaxis) - [**2159-2-28**] 05:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Nausea, Emesis, BMx1
   Flowsheet Data as of  [**2159-3-1**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 121 (101 - 133) bpm
   BP: 98/78(82) {93/61(67) - 124/83(91)} mmHg
   RR: 18 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,051 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
                                                                    471 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    350 mL
   Urine:
                                                                  1,110 mL
                                                                    350 mL
   NG:
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                   -384 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irreg, irreg, tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   soft expirator, bilat, Diminished: L base)
   Abdominal: Soft, Bowel sounds present, Tender: RLQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , healing sternotomy wound
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   8.9 g/dL
   119 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.9 mEq/L
   23 mg/dL
   102 mEq/L
   139 mEq/L
   26.4 %
   1.0 K/uL
        [image002.jpg]
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
                             [**2159-2-28**]  05:46 AM
                             [**2159-3-1**]  04:36 AM
   WBC
   6.7
   5.7
   6.2
   3.3
   13.0
   2.3
   1.0
   Hct
   28.1
   26.3
   26.4
   25.2
   25.2
   29.8
   26.4
   Plt
   446
   418
   440
   373
   388
   206
   211
   Cr
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   0.8
   0.9
   TCO2
   30
   33
   Glucose
   127
   114
   105
   156
   175
   142
   110
   119
   Other labs: PT / PTT / INR:13.6/23.0/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, OTHER
   Postobstructive
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPOXEMIA
 NAUSEA / VOMITING
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   64 y/o F w/ Large cell lung CA w/ left lung collapse, transferred for
   AF w/ RVR and worsening resp status requiring intubation.
   # Respiratory failure:  etiology due to bulky pulm tumor burden
   encasing left ainstem bronchus and left lobe collapse.  Pt now
   extuabated and resp satus stable on 4L nC w/o resp distress.  Patient
   completed a course of vanc/zosyn for post-obstructive PNA last day
   [**2-25**].  CIS and restart abx.  Today
s CXR shows improved LL air field.
   # Atrial Fibrilllation:  Patint w/ AF w/ RVR up to 180 yesterday, asx
   throughout.  Has been triggered on floors and transferred to unit twice
   before.  Now rate controlled on maxed out dilt gtt and PO metoprolol.
   n        start dilt 60mg, then increase to 120mg and down titrate gtt
   n        cont metoprolol.
   n        Goal HR 90-110
   n        CHADS score of 0, on ASA.  Given bleeding risk, will defer
   further AC at this time
   #Cancer:  Restarted XRT today after was stopped in setting of worsening
   mental status, which has now resolved.  Will receive 10 more
   treatments.  Likely no more chemo, but to meet w/ fellow [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1232**]
   tomorrow to discuss.
   #C.Diff:  Pt was recently dx w/ C. diff while on vanc/zosy, had been on
   PO vanc, which was d/c
d when patient made CMO.  Restarted vanc
   yesterday for 14 day course post abx.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2159-03-01 11:26:00 Physician Attending Progress Note
Chief Complaint: recurrent a fib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 RADIATION THERAPY - At [**2159-2-28**] 12:49 PM
   n/v
   dilt ggt stopped and PO diltiazem dose titrated upwards with improved
   rate control
   History obtained from Patient, house staff
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2159-2-28**] 11:56 AM
   Heparin Sodium (Prophylaxis) - [**2159-2-28**] 05:56 PM
   Ranitidine (Prophylaxis) - [**2159-3-1**] 08:28 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-1**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 134 (101 - 134) bpm
   BP: 108/72(81) {90/62(30) - 124/83(91)} mmHg
   RR: 19 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,051 mL
                                                                     60 mL
   PO:
                                                                    580 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    471 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    440 mL
   Urine:
                                                                  1,110 mL
                                                                    390 mL
   NG:
                                                                    325 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -384 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3 L NC
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   211 K/uL
   119 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.9 mEq/L
   23 mg/dL
   102 mEq/L
   139 mEq/L
   26.4 %
   1.0 K/uL
        [image002.jpg]
                             [**2159-2-22**]  01:21 AM
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
                             [**2159-2-28**]  05:46 AM
                             [**2159-3-1**]  04:36 AM
   WBC
   6.7
   5.7
   6.2
   3.3
   13.0
   2.3
   1.0
   Hct
   28.1
   26.3
   26.4
   25.2
   25.2
   29.8
   26.4
   Plt
   446
   418
   440
   373
   388
   206
   211
   Cr
   1.3
   1.3
   1.1
   1.1
   1.2
   1.3
   0.8
   0.9
   TCO2
   30
   33
   Glucose
   127
   114
   105
   156
   175
   142
   110
   119
   Other labs: PT / PTT / INR:13.6/23.0/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL,
   LDH:624 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: no new imaging
   Microbiology: no new data
   Assessment and Plan
   64 yo F with complicated course--sternal  wound infection post ASD
   repair, newly diagnosed large cell lung ca c/b post-obstructive pna ,
   recurrent afib with rvr, improving mental status and respiratory status
   now with reversal of code status from CMO to full, continuing with
   palliative XRT
 ATRIAL FIBRILLATION (AFIB) -- rate control improved on metoprolol and
   Po diltiazem, off of drip medication, pt with multiple reasons for
   persistent afib given tumor burden in lung and prior ASD repair.
   holding on anticoagulation given tumor burden/ eroding  PA
but could
   continue to readdress pending course, would continue asa
 PNEUMONIA, OTHER: Post obstructive, completed course of vanc/zosyn,
   cxr with improving aeration in LUL likely some XRT verses chemo
   response
 CANCER (MALIGNANT NEOPLASM): Continuing palliative XRT X 10
   additional treatments
   meeting with onc and rad onc later today to discuss potential chemo
   palliative options and additional goals of care
   >  leukopenia--suspect from recent  chemo last week--check differential
   and follow daily
is likely neutropenic, would start g-csf
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPOXEMIA: Currently stable on NC O2
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
completing 2 additional weeks treatment since completing
   antibx for post-obstructive pna, repeat cx sent and pending
   ICU Care
   Nutrition:
   Comments: PO  diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2159-03-02 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt was CALLED OUT to floor
   - family meeting - pt now DNR/DNI
   - GCSF started
   - new eosinophilia (15%) - seen with undifferentiated large cell lung
   cancers
   - continued XRT ([**2-12**])
   Pt was doing well this am, had some nausea, no emesis.  Pt having some
   back pain otherwise comfortable.
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-3-1**] 05:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2159-3-1**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2159-3-1**] 11:50 PM
   Other medications:
   Flowsheet Data as of  [**2159-3-2**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 119 (98 - 134) bpm
   BP: 108/65(75) {88/47(30) - 115/84(89)} mmHg
   RR: 12 (6 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                    180 mL
                  PO:
                                                                    180 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    800 mL
                                                                    125 mL
   Urine:
                                                                    740 mL
                                                                    125 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GEN: NAD, comfortable
   HEENT: NCAT/EOMI, no asymmetry
   CV: irreg/irreg, tachy no m/r/g
   RESP: exp stridor/wheeze noted over R Lung, some crackles at RLL base,
   otherwise moving air well, no e/o resp distress
   ABD: soft, NT/ND, NABS
   EXTR:no c/c/e
   Labs / Radiology
   174 K/uL
   8.3 g/dL
   114 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.8 mEq/L
   25 mg/dL
   98 mEq/L
   133 mEq/L
   24.3 %
   0.6 K/uL
        [image002.jpg]
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
                             [**2159-2-28**]  05:46 AM
                             [**2159-3-1**]  04:36 AM
                             [**2159-3-2**]  04:42 AM
   WBC
   5.7
   6.2
   3.3
   13.0
   2.3
   1.0
   0.6
   Hct
   26.3
   26.4
   25.2
   25.2
   29.8
   26.4
   24.3
   Plt
   [**Telephone/Fax (3) **]88
   206
   211
   174
   Cr
   1.3
   1.1
   1.1
   1.2
   1.3
   0.8
   0.9
   0.9
   TCO2
   30
   33
   Glucose
   114
   105
   156
   175
   142
   110
   119
   114
   Other labs: PT / PTT / INR:13.5/23.4/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Differential-Neuts:56.3 %, Band:0.0 %,
   Lymph:25.1 %, Mono:3.3 %, Eos:15.0 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.9 g/dL, LDH:624 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   64 y/o F w/ Large cell lung CA w/ left lung collapse, transferred for
   AF w/ RVR and worsening respiratory status requiring intubation, now
   sating well on 4L NC and awaiting transfer to floor.
   # Respiratory failure:  etiology likely due to bulky tumor burden
   encasing left mainstem bronchus and left lobe collapse.  Pt now
   extubated and resp status stable on 4L NC w/o resp distress.  Pt
   completed a course of vanc/zosyn for post-obstructive PNA last day of
   Abx was [**2-25**].  Recent CXR showed improved aeration of Rlung.
   -continue suppmental oxygen prn
   -CIS and start Vanc/Cefepime given new neutropenia
   -now s/p first cycle of chemo and 2 of 11 XRT treatments
   # Atrial Fibrilllation:  Pt with Atrial Fibrillation with difficult to
   control RVR. Pt has achieved better rate control with rates between
   90-130s on po diltiazem & metoprolol.  Given tumor burden and high risk
   of bleeding, will hold on systemic anti-coagulation
   - continue Diltiazem 120mg TID & metoprolol 75mg TID with a goal HR
   90-110
   - CHADS score of 0, on ASA.
   #Cancer:  Pt with newly diagnosed large cell lung cancer and
   significant tumor burden.  Now s/p 1 cycle of chemo and resumed XRT on
   [**2-28**].  It have previously been held in setting of worsened mental
   status, now resolved.   Pt is now neutropenic and was started Neupogen
   [**3-1**].
   - continue neupogen daily with goal ANC>1000
   - neutropenic oral care with nystatin/clotrimazole, will CIS and start
   empiric Vanc/Cefepime
   - monitoring counts daily and will transfuse for hct <21
   - plan for # 3 of 11 XRT sessions today
   #C.Diff:  Pt was recently diagnosed with C. diff while on vanc/zosyn.
   Pt previously treated with PO vanc, which was d/c
d when patient  was
   made CMO, now DNR/DNI.  Restarted vanc [**2-28**] for a planned 14 day course
   post abx.
   - continue PO Vanc QID day [**2-15**]
   ICU Care
   Nutrition: Reg diet
   Glycemic Control: ISS
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT:  Heparin sc TID
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: called out to floor

2159-03-02 12:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT but still awaiting bed on floor, family mtg with oncology
   teams yesterday resulting in change in code status to dnr/dni
   g-csf started, new eosinophilia noted
   History obtained from Patient, house staff
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-3-1**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-3-2**] 08:29 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-2**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 94 (94 - 134) bpm
   BP: 95/47(56) {81/47(56) - 115/84(89)} mmHg
   RR: 12 (6 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                    180 mL
                                                                    350 mL
   PO:
                                                                    180 mL
                                                                    350 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    800 mL
                                                                    125 mL
   Urine:
                                                                    740 mL
                                                                    125 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   174 K/uL
   114 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.8 mEq/L
   25 mg/dL
   98 mEq/L
   133 mEq/L
   24.3 %
   0.6 K/uL
        [image002.jpg]
                             [**2159-2-23**]  04:02 AM
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
                             [**2159-2-28**]  05:46 AM
                             [**2159-3-1**]  04:36 AM
                             [**2159-3-2**]  04:42 AM
   WBC
   5.7
   6.2
   3.3
   13.0
   2.3
   1.0
   0.6
   Hct
   26.3
   26.4
   25.2
   25.2
   29.8
   26.4
   24.3
   Plt
   [**Telephone/Fax (3) **]88
   206
   211
   174
   Cr
   1.3
   1.1
   1.1
   1.2
   1.3
   0.8
   0.9
   0.9
   TCO2
   30
   33
   Glucose
   114
   105
   156
   175
   142
   110
   119
   114
   Other labs: PT / PTT / INR:13.5/23.4/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Differential-Neuts:56.3 %, Band:0.0 %,
   Lymph:25.1 %, Mono:3.3 %, Eos:15.0 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.9 g/dL, LDH:624 IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Fluid analysis / Other labs: diff ordered and pending
   Imaging: no new imaging
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, OTHER
   Postobstructive
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPOXEMIA
 NAUSEA / VOMITING
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   64 yo F with complicated course--sternal  wound infection post ASD
   repair, newly diagnosed large cell lung ca c/b post-obstructive pna ,
   recurrent afib with rvr, improving mental status and respiratory status
   now with reversal of code status from CMO to full, continuing with
   palliative XRT, now neutropenic
 ATRIAL FIBRILLATION (AFIB) -- rate control improved on metoprolol and
   PO diltiazem, off of drip medication
    pt with multiple reasons for persistent afib given tumor burden in
   lung and prior ASD repair.
   continuing on asa and continue tohold on anticoagulation given tumor
   burden/ eroding  PA
but could continue to readdress pending course
 PNEUMONIA, OTHER: Post obstructive, completed course of vanc/zosyn,
   reamins stable on 4 L NC, improved aeration on most recent cxr
 CANCER (MALIGNANT NEOPLASM): Continuing palliative XRT X 9 additional
   treatments
   goals of care readdressed with onc  and will be continuing with plan
   for palliative checmotherapy, code staus changed to DNR/DNI
   >  neutropenia--expected nadir post recent  chemo treamtnet--restared
   g-CSF, following faily diff, neutropenic precuations, high risk for
   mucocysitis, start nuetropenic oral care, cultures for spikes and given
   picc line would include cefepema and vanco per onc
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPOXEMIA: Currently stable on NC O2
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
completing 2 additional weeks treatment since completing
   antibx for post-obstructive pna, repeat cx sent and pending/ day [**2-15**]
   today
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2159-03-03 07:12:00 Physician Resident Progress Note
Chief Complaint: AF w/ RVR
   24 Hour Events:
 CALLED OUT
   - called out to ONC
   - neutropenic, on GCSF, afebrile
   - No XRT [**2-3**] to neutropenia ([**3-13**])
   Allergies:
   Tetracycline
   yeast infection
   Rash;
   Metal Can/Brush Top Applicat (Miscell.) (Container
   Empty)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2159-3-1**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-3-3**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis, No(t) Diarrhea,
   dysphagia
   Genitourinary: No(t) Dysuria
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2159-3-3**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 122 (94 - 148) bpm
   BP: 105/67(76) {81/47(56) - 113/85(89)} mmHg
   RR: 13 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,250 mL
                                                                    320 mL
   PO:
                                                                  1,250 mL
                                                                    320 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    985 mL
                                                                    200 mL
   Urine:
                                                                    985 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), iregularly irregular,
   tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   152 K/uL
   8.4 g/dL
   94 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.6 mEq/L
   22 mg/dL
   97 mEq/L
   134 mEq/L
   24.5 %
   0.9 K/uL
        [image002.jpg]
                             [**2159-2-23**]  04:20 PM
                             [**2159-2-24**]  04:09 AM
                             [**2159-2-24**]  11:45 AM
                             [**2159-2-24**]  05:25 PM
                             [**2159-2-24**]  11:52 PM
                             [**2159-2-25**]  01:45 AM
                             [**2159-2-28**]  05:46 AM
                             [**2159-3-1**]  04:36 AM
                             [**2159-3-2**]  04:42 AM
                             [**2159-3-3**]  03:45 AM
   WBC
   6.2
   3.3
   13.0
   2.3
   1.0
   0.6
   0.9
   Hct
   26.4
   25.2
   25.2
   29.8
   26.4
   24.3
   24.5
   Plt
   [**Telephone/Fax (2) 1301**]
   152
   Cr
   1.1
   1.1
   1.2
   1.3
   0.8
   0.9
   0.9
   0.9
   TCO2
   30
   33
   Glucose
   105
   156
   175
   142
   110
   119
   114
   94
   Other labs: PT / PTT / INR:13.8/28.3/1.2, CK / CKMB /
   Troponin-T:110/1/0.01, Differential-Neuts:56.3 %, Band:0.0 %,
   Lymph:25.1 %, Mono:3.3 %, Eos:15.0 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.9 g/dL, LDH:624 IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   Assessment and Plan
   64 y/o F w/ Large cell lung CA w/ left lung collapse, transferred for
   AF w/ RVR and worsening respiratory status requiring intubation, now
   sating well on 4L NC and awaiting transfer to floor.
   # Respiratory failure:  etiology likely due to bulky tumor burden
   encasing left mainstem bronchus and left lobe collapse.  Pt now
   extubated and resp status stable on 4L NC w/o resp distress.  Pt
   completed a course of vanc/zosyn for post-obstructive PNA last day of
   Abx was [**2-25**].  Recent CXR showed improved aeration of Rlung.
   -continue suppmental oxygen prn
   -CIS and start Vanc/Cefepime given new neutropenia
   -now s/p first cycle of chemo and 2 of 11 XRT treatments
   # Atrial Fibrilllation:  Pt with Atrial Fibrillation with difficult to
   control RVR. Pt has achieved better rate control with rates between
   90-130s on po diltiazem & metoprolol.  Given tumor burden and high risk
   of bleeding, will hold on systemic anti-coagulation
   - continue Diltiazem 120mg TID & metoprolol at now increased dose of
   100mg TID with a goal HR 90-110
   - consider starting digoxin
   - CHADS score of 0, on ASA.
   #Cancer:  Pt with newly diagnosed large cell lung cancer and
   significant tumor burden.  Now s/p 1 cycle of chemo and resumed XRT on
   [**2-28**].  It have previously been held in setting of worsened mental
   status, now resolved.   Pt is now neutropenic and was started Neupogen
   [**3-1**].
   - continue neupogen daily with goal ANC>1000, awaint morning diff
   - neutropenic oral care with nystatin/clotrimazole, will CIS and start
   empiric Vanc/Cefepime
   - monitoring counts daily and will transfuse for hct <21
   - plan for # 3 of 11 XRT sessions monday, could not get yesterday [**2-3**]
   to neutropenia
   #C.Diff:  Pt was recently diagnosed with C. diff while on vanc/zosyn.
   Pt previously treated with PO vanc, which was d/c
d when patient  was
   made CMO, now DNR/DNI.  Restarted vanc [**2-28**] for a planned 14 day course
   post abx.
   - continue PO Vanc QID day [**2-15**]
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2159-2-20**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Called out to Floor